US06831186B2
A mixture of (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne (2.5 g, 14 mmol), N-bromosuccinimide (NBS) (2.74 g, 15.4 mmol) and AgNO3 (0.12 g, 0.7 mmol) in acetone (70 mL) was stirred at ambient temperature. The pale solution became cloudy over 30 minutes. The mixture was concentrated under vacuum and the resulting residue was filtered through a plug of silica gel (1×5 cm) eluted with 1:4 ethyl acetate:hexane to obtain (3S)-1-bromo-4-(4-fluorophenoxy)-3-hydroxy-1-butyne, a compound of formula (CC), as a pale yellow oil containing some ethyl acetate, 4.75 g (quant.); 1H NMR (CDCl3) δ 3.95-4.15 (m, 2H),4.75 (m, 1H), 6.86 (m, 2H), 6.97 (m, 2H) ppm.

reactant | (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne | 14 mmol, 2.5 g | FC1=CC=C(OC[C@H](C#C)O)C=C1 | C10H9FO2
reactant | N-bromosuccinimide | 15.4 mmol, 2.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 70 mL | CC(=O)C | C3H6O
catalyst | AgNO3 | 0.7 mmol, 0.12 g | [N+](=O)([O-])[O-].[Ag+]
product | (3S)-1-bromo-4-(4-fluorophenoxy)-3-hydroxy-1-butyne | BrC#C[C@@H](COC1=CC=C(C=C1)F)O | C10H8BrFO2
